US05281617
(±-2-Phenylbutanoyloxysuccinimide (1)
A solution of dicyclohexylcarbodiimide (6.91 g, 0.033 mol) in 33 mL of dry dioxane was added to a solution of 2-phenylbutyric acid (5.00 g, 0.030 mol) and N-hydroxysuccinimide (3.86 g, 0.034 mol) and the resulting mixture was allowed to stir overnight. The precipitated dicyclohexylurea by-product was filtered off and the filtrate concentrated under vacuum. The residue was dissolved in 5 mL of methylene chloride and filtered to remove a small amount of additional urea by-product. The solution was evaporated to give a white solid which was recrystallized from methanol to give 5.17 g (65%) of the product as white crystals; mp 96.5°-97.5° C.; 1H NMR (CDCl3) δ 0.99 (t, 3 H, J=7.4 Hz), 1.85-2.00 (m, 1 H), 2.13-2.28 (m, 1 H), 2.72 (br s, 4 H), 3.78 (t, 1 H, J=7.6 Hz), 7.35 (s, 5 H); 13C NMR (CDCl3) δ 11.49, 25.30, 26.89, 50.25, 127.95, 128.18, 128.92, 136.90, 169.24, 169.62; Anal. Calcd for C14H15NO4 : C, 64.36; H, 5.79; N, 5.36. Found: C, 64.63; H, 5.84; N, 5.34.

reactant | dicyclohexylcarbodiimide | 0.033 mol, 6.91 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 2-phenylbutyric acid | 0.030 mol, 5.00 g | C1(=CC=CC=C1)C(C(=O)O)CC | C10H12O2
reactant | N-hydroxysuccinimide | 0.034 mol, 3.86 g | ON1C(CCC1=O)=O | C4H5NO3
solvent | dioxane | 33 mL | O1CCOCC1 | C4H8O2
product | 2-Phenylbutanoyloxysuccinimide | 5.17 g, 65% | C1(=CC=CC=C1)C(C(=O)OC1C(=O)NC(C1)=O)CC | C14H15NO4
